US09376422B2
Step 4: Synthesis of tert-butyl 4-[(3,6-dichloro-2-{[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]carbamoyl}pyridin-4-yl)(methyl)amino]piperidine-1-carboxylate
To a stirred solution of 4-({1-[(tert-butoxy)carbonyl]piperidin-4-yl}(methyl)amino)-3,6-dichloropyridine-2-carboxylic acid (75 mg, 0.19 mmol) in DMF (2 ml) cooled to 0° C. h was added DIPEA (48 μl, 0.28 mmol) followed by PyBOP (116 mg, 0.22 mmol) and 3-(aminomethyl)-4,6-dimethyl-1,2-dihydropyridin-2-one (89% purity, 35 mg, 0.2 mmol). The reaction mixture was then stirred at room temperature for 16 h after which the reaction was poured onto water (30 ml) and extracted with EtOAc (3×50 ml) after which the combined organics were washed with brine (50 ml) and dried (Na2SO4) and evaporated. The crude product was purified using a 5 g silica Isolute column eluting with a gradient of 0% to 100% EtOAc in heptane to afford the title compound as a white solid which contained ˜45% w/w tripyrrolidinophosphene oxide by NMR—this compound was used in the next stage of the synthesis without any further purification. LC-MS 93%, 1.97 min (3.5 minute LC-MS method), m/z=538.0/539.45/542.05, 1H NMR (500 MHz, Chloroform-d) δ 10.03 (br. s, 1H), 8.13-7.97 (m, 1H), 6.79 (s, 1H), 5.87 (s, 1H), 4.50 (d, J=6.1 Hz, 2H), 4.16 (br. m, 2H), 3.78-3.62 (m, 1H), 2.72 (s, 3H), 2.65 (br. m, 2H), 2.35 (s, 3H), 2.22 (s, 3H), 1.73-1.63 (m, 4H), 1.44 (s, 9H).

reactant | 4-({1-[(tert-butoxy)carbonyl]piperidin-4-yl}(methyl)amino)-3,6-dichloropyridine-2-carboxylic acid | 0.19 mmol, 75 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C1=C(C(=NC(=C1)Cl)C(=O)O)Cl)C | C17H23Cl2N3O4
reactant | DIPEA | 0.28 mmol, 48 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | PyBOP | 0.22 mmol, 116 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | 3-(aminomethyl)-4,6-dimethyl-1,2-dihydropyridin-2-one | 0.2 mmol, 35 mg | NCC=1C(NC(=CC1C)C)=O | C8H12N2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | tert-butyl 4-[(3,6-dichloro-2-{[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]carbamoyl}pyridin-4-yl)(methyl)amino]piperidine-1-carboxylate | ClC=1C(=NC(=CC1N(C1CCN(CC1)C(=O)OC(C)(C)C)C)Cl)C(NCC=1C(NC(=CC1C)C)=O)=O | C25H33Cl2N5O4
